US07767651B2
1) Synthesis of (4-bromo-thiophen-2-yl)-(4-ethyl-phenyl)-methanol
Under a nitrogen stream, to a solution of 4-bromo-2-thiophenecarboxaldehyde (10.0 g, 52.3 mmol) in anhydrous THF (100 ml), a hexane solution of n-butyllithium (1.6 M, 34.35 ml, 55.0 mmol) was added dropwise at −78° C. over 5 minutes. After stirring at the same temperature for 10 minutes, a solution of 1-bromo-4-ethylbenzene (10.2 g, 55.0 mmol) in THF (50 ml) was added dropwise. The reaction mixture was stirred at −78° C. for 2 hours and, after addition of saturated aqueous ammonium chloride, was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then evaporated under reduced pressure to remove the solvent. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:10)) to give the titled compound (7.1 g, 45%).

reactant | 4-bromo-2-thiophenecarboxaldehyde | 52.3 mmol, 10.0 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | n-butyllithium | 55.0 mmol, 1.6 M, 34.35 ml | C(CCC)[Li]
reactant | 1-bromo-4-ethylbenzene | 55.0 mmol, 10.2 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (4-bromo-thiophen-2-yl)-(4-ethyl-phenyl)-methanol | 7.1 g, 45% | BrC=1C=C(SC1)C(O)C1=CC=C(C=C1)CC | C13H13BrOS
